US20010037039A1
3-[5-Methyl-3-(2-(4-methylpiperazinylsulfonyl)phenylsulfonyloxy)phenoxy]Propoxyguanidine Hydrochloride
3-[5-Methyl-3-(2-(4-methylpiperazinylsulfonyl)phenylsulfonylox3-)phenoxy] propoxyguanidine hydrochloride: A mixture of 3-[5-methyl-3-(2-(4-methylpiperazinylsulfonyl)phenylsulfonyloxy) phenoxy]propoxyamine (113 mg, 0.23 mmol), as prepared in the previous step, and 1H-pyrazole-1-carboxamidine hydrochloride (62 mg, 0.42 mmol) in anhydrous N,N-dimethylformamide (10 mL) was stirred at room temperature under nitrogen (balloon) for 18 hours. The solution was concentrated under high vacuum with heating and the residue was purified by flash chromatography (10% to 20% methanol in dichloromethane), then dissolved in dichloromethane, filtered and concentrated to give the title compound (105 mg, 80%) as a white solid. 1H NMR (300 MHz, CDCl3) δ8.20 (m, 2H), 7.83 (td, 1H, J=7.7, 1.3 Hz), 7.70 (td, 1H, J=7.7, 1.2 Hz), 6.59 (m, 2H), 6.52 (m, 1H), 6.28 (m, 3H), 4.04 (t, 2H, J=5.8 Hz), 3.96 (t, 2H, J=5.8 Hz), 3.43 (m, 4H), 2.33 (s, 3H), 2.23 (s, 3H), 2.00 (m, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C22H31N5O7S2: 542.2 (M+H), 564.2 (M+Na). Found: 542.3, 564.3.

reactant | 3-[5-methyl-3-(2-(4-methylpiperazinylsulfonyl)phenylsulfonyloxy) phenoxy]propoxyamine | 0.23 mmol, 113 mg | CC=1C=C(C=C(OCCCON)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C | C21H29N3O7S2
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 0.42 mmol, 62 mg | Cl.N1(N=CC=C1)C(=N)N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-[5-Methyl-3-(2-(4-methylpiperazinylsulfonyl)phenylsulfonyloxy)phenoxy]Propoxyguanidine Hydrochloride | 105 mg, 80% | Cl.CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C | InChI=1S/C22H31N5O7S2.ClH/c1-17-14-18(32-12-5-13-33-25-22(23)24)16-19(15-17)34-36(30,31)21-7-4-3-6-20(21)35(28,29)27-10-8-26(2)9-11-27;/h3-4,6-7,14-16H,5,8-13H2,1-2H3,(H4,23,24,25);1H
